US04085111
A mixture of 14.5 g of 2-(4-cyanophenoxy)nicotinic acid, 3.97 g of ammonium chloride, 4.96 g of sodium azide and 120 ml of dimethylformamide is allowed to stand at 100° C to 110° C for 24 hours. After cooling, the reaction mixture is filtered, and the filtrate is concentrated. To the residue is added a dilute hydrochloric acid, and the crystals are filtered off and recrystallized from methanol to give 5 g of 2-[4-(5-1H-tetrazolyl)phenoxy]-nicotinic acid melting at 225° C to 230° C with decomposition.

reactant | 2-(4-cyanophenoxy)nicotinic acid | 14.5 g | C(#N)C1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C13H8N2O3
reactant | ammonium chloride | 3.97 g | [Cl-].[NH4+]
reactant | sodium azide | 4.96 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2-[4-(5-1H-tetrazolyl)phenoxy]-nicotinic acid | 5 g | N1N=NN=C1C1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C13H9N5O3
